US04649146
To a solution of 2-methylamino-4-methyl-5-acetylthiazole (35 g) in tetrahydrofuran (700 ml) were added a mixture of acetic anhydride (94.5 ml) and formic acid (37.7 ml) at ambient temperature and the mixture was stirred for two hours. The reaction mixture was evaporated in vacuo. The residue was added to water and the resultant precipitate was collected by filtration and dried over phosphorus pentoxide to give 2-(N-methylformamido)-4-methyl-5-acetylthiazole (39.59 g).

reactant | 2-methylamino-4-methyl-5-acetylthiazole | 35 g | CNC=1SC(=C(N1)C)C(C)=O | C7H10N2OS
reactant | acetic anhydride | 94.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 37.7 ml | C(=O)O | CH2O2
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 2-(N-methylformamido)-4-methyl-5-acetylthiazole | 39.59 g | CN(C=O)C=1SC(=C(N1)C)C(C)=O | C8H10N2O2S
